US07541374B2
0.22 g of 4-{[dichlorofluoromethyl]thio}-1H-pyrazole-1-ylmethanol was dissolved to 10 ml of chloroform. 0.3 ml of thionyl chloride was added to the solution, and refluxed for 4 hours. The reaction mixture was concentrated under reduced pressure to obtain 0.21 g of 1-(chloromethyl)-4-{[dichloro(fluoro)methyl]thio}-1H-pyrazole.

reactant | 4-{[dichlorofluoromethyl]thio}-1H-pyrazole-1-ylmethanol | 0.22 g | ClC(SC=1C=NN(C1)CO)(F)Cl | C5H5Cl2FN2OS
reactant | thionyl chloride | 0.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(chloromethyl)-4-{[dichloro(fluoro)methyl]thio}-1H-pyrazole | 0.21 g | ClCN1N=CC(=C1)SC(F)(Cl)Cl | C5H4Cl3FN2S
